US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.17 g of piperidine, 0.55 g of potassium carbonate and 2 ml of DMF was stirred while heating at 50° C. for two hours, and then at 80° C. for 1.3 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.34 g of 2-[3-(piperidine-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 54”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | piperidine | 0.17 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-[3-(piperidine-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.34 g | N1(CCCCC1)C=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C18H16F3N3O
